US06432993B1
5-[4-{6-[4-(2,4-Difluorobenzoylamino)phenoxy]-1-methyl-1H-benzimidazole-2-ylmethoxy}-benzyl]thiazolidine-2,4-dione (Exemplified Compound No. 1-1236)
In a similar manner to that described in Example 47, a reaction was carried out using 5-{4-[6-(4-aminophenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione dihydrochloride (400 mg), 2,4-difluorobenzoylchloride (141 mg), triethylamine (232 mg) and anhydrous N,N-dimethylformamide (8 ml) and the reaction mixture was purified to give the title compound (251 mg).

reactant | 5-{4-[6-(4-aminophenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione dihydrochloride | 400 mg | Cl.Cl.NC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1
reactant | 2,4-difluorobenzoylchloride | 141 mg | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | triethylamine | 232 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 5-[4-{6-[4-(2,4-Difluorobenzoylamino)phenoxy]-1-methyl-1H-benzimidazole-2-ylmethoxy}-benzyl]thiazolidine-2,4-dione | 251 mg | FC1=C(C(=O)NC2=CC=C(OC=3C=CC4=C(N(C(=N4)COC4=CC=C(CC5C(NC(S5)=O)=O)C=C4)C)C3)C=C2)C=CC(=C1)F | C32H24F2N4O5S
